US05237070
A mixture of 4.0 g of 3-[4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)phenyl]propionic acid, 200 ml of ethanol of 0.1 g of 10% palladium on charcoal catalyst was placed on a Paar apparatus. Hydrogen uptake was complete after 30 minutes. Under a nitrogen atmosphere, the reaction mixture was filtered to remove catalyst The filtrate was evaporated to give an oil which was coevaporated with hexane to remove all traces of ethanol and then triturated with hexane to give a light orange crystalline solid. This solid was recrystallized from a mixture of ethanol and water to give 3.1 g 3-[N-(3,5-di-tertiary-butyl-4-hydroxyphenyl)-4-aminophenyl]propionic acid, m.p. 140°-142° C. Analysis: Calculated for C23H31NO3 : %C, 74.8; %H. 8.5; %N. 3.8; Found: %C, 74.7; %H, 8.3; %N, 3.9.

reactant | 3-[4-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)phenyl]propionic acid | 4.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC=C(C=C1)CCC(=O)O)C(C)(C)C)=O | C23H29NO3
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | hexane | CCCCCC | C6H14
product | 3-[N-(3,5-di-tertiary-butyl-4-hydroxyphenyl)-4-aminophenyl]propionic acid | 3.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC1=CC=C(C=C1)CCC(=O)O | C23H31NO3
